US03962247
To 3.6 g. of N-(α-cyano-3,4-dimethoxybenzyl)piperazine was added 8 ml. of benzene and then 1.47 g. of soda ash. To the resulting mixture was added 2.53 g. of cinnamyl chloride over a period of about 1 hour while the mixture was heated under reflux with stirring. After dropping, the mixture was further refluxed with stirring for 2 hours. After cooling, the mixture was filtered and the filtrate was washed with water and dried over sodium sulfate. The solvent was distilled off under reduced pressure. To the residue was added ligroin to be allowed to stand to give crystal which was collected by filtration. The product was recrystallized from ligroin to give 3.4 g. of crystal having a melting point of 119° - 123°C. This crystal was dissolved in benzene and the resultant solution was saturated with dry hydrochloric gas to separate crystal which was collected by filtration. Recrystallization from methanol afforded N-(α-cyano-3,4-dimethoxybenzyl)-N'-cinnamyl piperazine dihydrochloride as needles melting at 203° - 204.6°C. (decomposition).

reactant | N-(α-cyano-3,4-dimethoxybenzyl)piperazine | C(#N)C(C1=CC(=C(C=C1)OC)OC)N1CCNCC1 | C14H19N3O2
reactant | cinnamyl chloride | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(α-cyano-3,4-dimethoxybenzyl)-N'-cinnamyl piperazine dihydrochloride | Cl.Cl.C(#N)C(C1=CC(=C(C=C1)OC)OC)N1CCN(CC1)CC=CC1=CC=CC=C1 | InChI=1S/C23H27N3O2.2ClH/c1-27-22-11-10-20(17-23(22)28-2)21(18-24)26-15-13-25(14-16-26)12-6-9-19-7-4-3-5-8-19;;/h3-11,17,21H,12-16H2,1-2H3;2*1H
